US06489322B1
a) 2,3,4,5-Tetrahydro-1,4-benzoxazepin-5-one
To 4-chromanone (50 g, 340 mmol) in acetic acid (670 ml) was added sodium azide (66.31 g, 1.02 mol) and conc. sulfuric acid (100 ml) dropwise at 0° C. The mixture was heated to 50° C. for 4 h and then cooled to room temperature. The mixture was poured onto ice (1 l) and basified with conc. ammonium hydroxide. The mixture was stirred for 24 h and the solids were collected by filtration (30.43 g, 55%), MSm/z 164 [M+H]+.

reactant | 4-chromanone | 340 mmol, 50 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | sodium azide | 1.02 mol, 66.31 g | [N-]=[N+]=[N-].[Na+]
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 670 ml | C(C)(=O)O | C2H4O2
product | 2,3,4,5-Tetrahydro-1,4-benzoxazepin-5-one | O1CCNC(C2=C1C=CC=C2)=O | C9H9NO2
